US06531502B1
A mixture of 3-bromo-p-anisaldehyde (1 g, 4.65 mmol), pyrrolidine (1.9 ml, 23.2 mmol) and oxindole (0.62 g, 4.65 mmol) in dimethylformamide (7 ml) was held in a sealed tube at 100° C. for 12 hours. The mixture was cooled to room temperature and poured into 1N hydrochloric acid (100 ml). The precipitate which formed was filtered and washed with water. The precipitate was then dissolved in ethyl acetate (200 ml), the solution washed with brine, dried over magnesium sulfate and then concentrated. The solid obtained was chromatographed (silica, 30-40% ethyl acetate/hexanes) to give 0.63 g (42%) of 3-(3-bromo-4-methoxybenzylidene)-1,3-dihydroindol-2-one as a yellow solid.

reactant | 3-bromo-p-anisaldehyde | 4.65 mmol, 1 g | BrC=1C=C(C=O)C=CC1OC | C8H7BrO2
reactant | pyrrolidine | 23.2 mmol, 1.9 ml | N1CCCC1 | C4H9N
reactant | oxindole | 4.65 mmol, 0.62 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | hydrochloric acid | 1N, 100 ml | Cl | ClH
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | 3-(3-bromo-4-methoxybenzylidene)-1,3-dihydroindol-2-one | 0.63 g, 42% | BrC=1C=C(C=C2C(NC3=CC=CC=C23)=O)C=CC1OC | C16H12BrNO2
